US04654343
N-Ethyl-N[3-(6-chloro-3-pyridazinyl)phenyl]acetamide
To a solution of 4.0 g of sodium hydride (50% dispersion in oil) in 400 ml of anhydrous tetrahydrofuran was added 18.0 g of N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide. The solution was stirred for 0.5 hrs, then 6.4 ml ethyl iodide was added. After stirring for 18 hours, the reaction mixture was treated as described in Example 63 to give 19.8 g of colorless crystals, mp 116°-119° C. Recrystalization from acetone-hexane gave colorless crystals, mp 120°-121° C.

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 18.0 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
reactant | ethyl iodide | 6.4 ml | C(C)I | C2H5I
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-Ethyl-N[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 19.8 g | C(C)N(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C14H14ClN3O
